US07709649B2
To a stirred solution of 2-chloro-3-fluoro-5-methylthiomethylpyridine (1.7 g, 8.9 mmol) and cyanamide (3.7 g, 8.9 mmol) in THF (15 mL) cooled to 0° C. was added iodobenzene diacetate (2.86 g, 8.9 mmol) in one portion and the resulting mixture was stirred at 0° C. for 1 h and then at room temperature for 2 h. The solvent was removed in vacuo and the resulting mixture was purified on silica gel using 60% acetone in hexane to give 1.828 g of [1-(5-fluoro-6-chloropyridin-3-yl)methyl](methyl)-λ4-sulfanylidenecyanamide as an off-white solid in 89% yield. LC-MS calcd. for C8H7ClFN3S [M+1]+: 232.69. Found: 232.04.

reactant | 2-chloro-3-fluoro-5-methylthiomethylpyridine | 8.9 mmol, 1.7 g | ClC1=NC=C(C=C1F)CSC | C7H7ClFNS
reactant | cyanamide | 8.9 mmol, 3.7 g | N#CN | CH2N2
reactant | iodobenzene diacetate | 8.9 mmol, 2.86 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [1-(5-fluoro-6-chloropyridin-3-yl)methyl](methyl)-λ4-sulfanylidenecyanamide | 1.828 g, 89% yield | FC=1C=C(C=NC1Cl)CS(=NC#N)C | C8H7ClFN3S
